* C:\Users\johnd\Desktop\IDE\IdeLab\Lab7\Draft1.asc
V1 N001 0 ac 1
R1 VOut VOut 10k
C1 VOut 0 10nf
R2 VOut N002 1k
C2 VOut 0 100nf
R3 N002 N001 100
C3 N002 0 1000nf
.ac dec 10 1 1Meg
.step param C list 100p 1n 10n 100n
.backanno
.end
